US06180622B2
Potassium t-butoxide (0.11 g) is added to a solution of 0.44 g of (imidazo[5,1-b]thiazol-5-yl)methyltriphenylphosphonium chloride in 2 ml of THF and 2 ml of dimethyl sulfoxide under ice cooling. The mixture is stirred at that temperature for one hr, and a solution of 0.28 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine in 2 ml of THF, and the mixture is stirred at that temperature for 2 hr. Ethyl acetate is added to the reaction mixture, and the mixture is successively washed with dilute hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and saturated saline and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation, and the residue is purified by column chromatography on silica gel (methanol:ethyl acetate=5:95) to give 0.33 g of (3R,5S)-1-allyloxycarbonyl-5-[2-(imidazo[5,1-b]thiazol-5-yl)ethenyl]-3-methanesulfonyloxypyrrolidine (a mixture of geometrical isomers).

reactant | Potassium t-butoxide | 0.11 g | CC(C)([O-])C.[K+]
reactant | (imidazo[5,1-b]thiazol-5-yl)methyltriphenylphosphonium chloride | 0.44 g | [Cl-].S1C=2N(C=C1)C(=NC2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 0.28 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (3R,5S)-1-allyloxycarbonyl-5-[2-(imidazo[5,1-b]thiazol-5-yl)ethenyl]-3-methanesulfonyloxypyrrolidine | 0.33 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=CC1=NC=C2SC=CN21)OS(=O)(=O)C | C16H19N3O5S2
